US07947834B2
0.4 g of (2,3-dihydrobenzo[1,4]oxazin-4-yl)[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,5-dihydropyrrol-1-yl]methanone, 0.4 g of 1-bromo-4-fluoro-2-(trifluoromethyl)benzene, 1.4 ml of a 2N solution of sodium carbonate in water and 15 ml of ethylene glycol dimethyl ether are placed in a 100 ml three-necked flask equipped with a magnetic stirrer and placed under an inert atmosphere. The reaction mixture is degassed with nitrogen for 30 minutes and then the reaction mixture is heated at reflux for 14 h. After filtering and concentrating to dryness, the crude reaction product obtained is chromatographed on silica gel, elution being carried out with a gradient of ethyl acetate in dichloromethane varying from 0% to 10%. 0.31 g of (2,3-dihydrobenzo[1,4]oxazin-4-yl)[3-(4-fluoro-2-(trifluoromethyl)phenyl)-2,5-dihydropyrrol-1-yl]methanone is obtained.

reactant | (2,3-dihydrobenzo[1,4]oxazin-4-yl)[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2,5-dihydropyrrol-1-yl]methanone | 0.4 g | O1CCN(C2=C1C=CC=C2)C(=O)N2CC(=CC2)B2OC(C(O2)(C)C)(C)C | C19H25BN2O4
reactant | 1-bromo-4-fluoro-2-(trifluoromethyl)benzene | 0.4 g | BrC1=C(C=C(C=C1)F)C(F)(F)F | C7H3BrF4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethylene glycol dimethyl ether | 15 ml | COCCOC | C4H10O2
product | (2,3-dihydrobenzo[1,4]oxazin-4-yl)[3-(4-fluoro-2-(trifluoromethyl)phenyl)-2,5-dihydropyrrol-1-yl]methanone | 0.31 g | O1CCN(C2=C1C=CC=C2)C(=O)N2CC(=CC2)C2=C(C=C(C=C2)F)C(F)(F)F | C20H16F4N2O2
